US06562828B1
4-[2-(N,N′-Di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic Acid
4-[2-(N,N′-Di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic acid benzyl ester (735 mg) was hydrogenated using 7.5% palladium carbon (220 mg) in a mixture of tetrahydrofuran (7 ml) and methanol (14 ml) at atmospheric pressure over 3 hours. After completion of the reaction, the reaction mixture was filtered through celite and the solvent was evaporated. The residue was dried under reduced pressure to give the title compound (600 mg).

reactant | 4-[2-(N,N′-Di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic acid benzyl ester | 735 mg | C(C1=CC=CC=C1)OC(CN1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(NC(=O)OC(C)(C)C)=NC(=O)OC(C)(C)C)=O | C35H48N4O7
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
catalyst | palladium carbon | 220 mg | [C].[Pd]
product | 4-[2-(N,N′-Di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic Acid | 600 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)CC(=O)O | C28H42N4O7
